US04892914
Step (2): Preparation of hafnium tetrakis(dimethylamide)
The lithium dimethylamide, 0.5 mole, in 250 ml of diethyl ether is chilled in an acetone/dry ice bath to -78° C. Hafnium tetrachloride, 35.9 g (0.112 mole), is transferred to a solid addition funnel attached to the 500 ml Schlenk then added over 30 minutes to the magnetically stirred lithium dimethylamide slurry. The mixture is warmed slowly to room temperature then refluxed 1 hour. All volatiles are removed under vacuum at room temperature and the remaining oily solid is extracted twice with 150 ml portions of hexane. The combined extracts are reduced in solvent volume then transferred to a 50 ml flask. Solid hafnium tetrakis(dimethylamide) is distilled from the residue under reduced pressure (boiling point=55° C.-65° C. @ 0.025 mm Hg) to give a very low melting, waxy, white solid.

reactant | lithium dimethylamide | C[N-]C.[Li+]
reactant | Hafnium tetrachloride | [Cl-].[Cl-].[Cl-].[Cl-].[Hf+4]
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | hafnium tetrakis(dimethylamide) | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[Hf+4] | InChI=1S/4C2H6N.Hf/c4*1-3-2;/h4*1-2H3;/q4*-1;+4
